US07790714B2
(S)-7-Hydroxy-6-nitro-3,4-dihydro-1H-isoquinoline-2,3-dicarboxylic acid 2-isopropyl ester 3-methyl ester (2.0 g) was dissolved in MeOH and 200 mg Pd/C added. The flask was evacuated and placed under balloon pressure of hydrogen. The reaction stirred at r.t. for 1.5 h and was filtered over a plug of celite. The celite plug was washed with EtOAc and DCM. The filtrates were combined and evaporated to provide (S)-6-amino-7-hydroxy-3,4-dihydro-1H-isoquinoline-2,3-dicarboxylic acid 2-isopropyl ester 3-methyl ester (1.8 g). LC-MS (m/z) 310.

reactant | (S)-7-Hydroxy-6-nitro-3,4-dihydro-1H-isoquinoline-2,3-dicarboxylic acid 2-isopropyl ester 3-methyl ester | 2.0 g | COC(=O)[C@H]1N(CC2=CC(=C(C=C2C1)[N+](=O)[O-])O)C(=O)OC(C)C | C15H18N2O7
solvent | MeOH | CO | CH4O
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | (S)-6-amino-7-hydroxy-3,4-dihydro-1H-isoquinoline-2,3-dicarboxylic acid 2-isopropyl ester 3-methyl ester | 1.8 g | COC(=O)[C@H]1N(CC2=CC(=C(C=C2C1)N)O)C(=O)OC(C)C | C15H20N2O5
